US07855297B2
To a solution of 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.27 g) in methylene chloride (2 mL) were added tetra-n-butylammonium hydrogensulfate (0.66 g), 2-(chloromethyl)pyridine hydrochloride (0.19 g) and 1 mol/L-aqueous sodium hydroxide solution (2.26 mL), and the mixture was stirred at room temperature for one day. The reaction mixture was partitioned between water and chloroform. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography to give 5-benzyloxy-N-(4-isopropylphenyl)-N-{[1-(2-pyridylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.19 g).

reactant | 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.27 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C1=CC=C(C=C1)C(C)C | C31H33N3O2
reactant | 2-(chloromethyl)pyridine hydrochloride | 0.19 g | Cl.ClCC1=NC=CC=C1
reactant | sodium hydroxide | 2.26 mL | [OH-].[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | tetra-n-butylammonium hydrogensulfate | 0.66 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-benzyloxy-N-(4-isopropylphenyl)-N-{[1-(2-pyridylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.19 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CC1=NC=CC=C1)C1=CC=C(C=C1)C(C)C | C37H38N4O2
